Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
Anterior Thoracentesis ___
Drainage of Posterior Left Pleurex Catheter ___

 
History of Present Illness:
___ with metastatic thyroid cancer and hx of pleural effusion, 
who presented with dyspnea. She has had a mild non-productive 
cough since the pigtail catheter was placed, but has noted that 
over the last 2 days she has had increasing dyspena, and feels 
fatigued. She denies fevers, chills, chest pain, pain with deep 
breathing. Overall it appears that there has been a decline in 
the output of her pleurex ___ three times weekly).  
.  
Patient recently stopped sorafenib as she has had disease 
progression and there are no plans for futher treatment 
(chemotherapy might be a future option). CT chest ___ reveals 
moderate sized, left-sided, loculated pleural effusion. Patient 
had thoracentesis ___ with minimal relief. On ___ she saw 
her pulmonologists who put TPA into the pleural space via the 
pleurx catheter with 150 ml out.  

 
Past Medical History:
Metastatic papillary thyroid cancer s/p thyroidectomy, RAI
Hypoparathyroidism with hypocalcemia
idiopathic dilated cardiomyopathy (now resolved)
h/o LV thrombus
Afib s/p DCCV
Hiatal hernia
Erosive gastritis
s/p varicose vein stripping
s/p tonsillectomy

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vitals: T:95.7 BP:109/47 P: R:20 O2: 92% on RA  
General: Alert, oriented, no acute distress.  
HEENT: Sclera anicteric, MMM, oropharynx clear.  
Neck: supple, JVP not elevated.  
Lungs: Decreased/No breath sounds left lung, right lung clear. 
Left pleurex catheter without surrounding erythema.  
CV: Regular rate and rhythm, no murmurs.  
Abdomen: soft, non-tender, non-distended, bowel sounds positive. 
 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
___ 01:20PM BLOOD WBC-12.3*# RBC-3.74* Hgb-11.3*# Hct-34.2* 
MCV-92 MCH-30.2 MCHC-33.0 RDW-14.7 Plt ___
___ 01:20PM BLOOD Neuts-83.3* Lymphs-6.7* Monos-6.9 Eos-2.8 
Baso-0.2
___ 01:58PM BLOOD ___ PTT-24.7 ___
___ 01:20PM BLOOD Glucose-108* UreaN-22* Creat-1.0 Na-141 
K-4.7 Cl-101 HCO3-27 AnGap-18
___ 01:20PM BLOOD Calcium-7.7* Phos-3.9 Mg-2.1
___ 04:50PM PLEURAL WBC-120* ___ Polys-40* 
Lymphs-10* Monos-17* Eos-23* Meso-1* Macro-9*
___ 04:50PM PLEURAL TotProt-4.2 Glucose-57 Creat-0.8 
LD(LDH)-939 Amylase-71 Albumin-2.5
CXR:
AP PORTABLE CHEST ___ AT 12:58 P.M. 
  
HISTORY: Dyspnea with left-sided chest tube. 
  
COMPARISON: Multiple priors, the most recent dated ___. 
  
FINDINGS: Compared to the ___ PET-CT, there has been 
progressive enlargement of the effusion and progressive 
rightward mediastinal shift on all successive radiographs 
including today's. There is near complete opacification of the 
left hemithorax with only a small residual aerated lung noted 
laterally in the lower aspects of the hemithorax in the region 
of the indwelling pleural drain. The right lung is largely 
clear. The mediastinum cannot be adequately assessed. The 
osseous structures are grossly unremarkable. 
  
IMPRESSION: Massive left pleural effusion with near-complete 
opacification of the left lung as above. 
CT Chest:
COMPUTED TOMOGRAPHY OF THE THORAX 
  
INDICATION: Worsening malignant effusion, potential loculations. 

  
TECHNIQUE: Volumetric thin section CT over the entire thorax in 
inspiration, 
no administration of contrast material, multiplanar 
reconstructions. 
  
COMPARISON: PET-CT of ___. 
  
FINDINGS: The pre-existing left-sided fluid collection has 
increased in 
extent. It now occupies most of the volume of the left 
hemithorax. In the 
basal dorsal regions of the fluid collection, a single septation 
is seen. 
Otherwise, no septations or loculations can be visualized. The 
fluid is 
contained in a sac of thickened and hypodense pleura. At the 
basolateral 
parts of this pleural site, a laterally positioned drain is 
visualized. The pleural sac displaces the mediastinum to the 
right. Several high density and enlarged lymph nodes are seen, 
notably at the ventral circumference of the pleural sac, at the 
level of the aortic arch and in the aortopulmonary window. 
Similar structures are also seen in the subcarinal region. Mild 
pericardial effusion, small hiatal hernia. In the right lung, a 
small subpleural nodules has newly occurred (3,17). No other 
lung lesions are seen. 
  
IMPRESSION: Increase of the left fluid collection that shows a 
single 
loculation in the dorsal basal area. Massively thickened nodular 
pleura. 
Extensive mediastinal and perilesional lymphadenopathy. Massive 
displacement of the mediastinum. Newly appeared right lung 
nodules. 

 
Brief Hospital Course:
In the ED, initial vs were: T 97, HR 100, BP 142/66, RR 16, Sat 
99% ra. U/S with effusion. CXR with L whiteout. CT chest with 
new anterior effusion. Patient was discussed with IP who said 
they would see the patient on the floor. Patient remained stable 
on room air.  
.  
 
.
# Dyspnea: Given imaging, likely ___ lung collapse from 
worsening malignant pleural effusion. The effusion appears to 
have an anterior and posterior compartment. The posterior 
compartment is being drained by her pleurex which is working 
appropriately. On arrival the the floor the patient was seen by 
___. They noted that her posterior pigtail was draining well. 
They did an anterior thoracentesis and drained 1.1L of 
serosanguinous fluid.  IP was concerned for bleeding into her 
pleural cavity, but thoracentesis is serosangionous so more 
likely malignant effusion. No fever, chills or leukocytosis 
concerning for infection.  The patient's repeat CXR 
post-thoracentesis showed mild improvement in aeration and 
mediastinal shift.  The follow up CXR from day after 
thoracentesis showed reaccumulation of the fluid.  The patient 
had no 02 requirement and 02 sat ranged 93-100%.  
-will f/u with IP the week of discharge for likely drain 
placement. 
.  
# Thyroid Cancer: Spoke to patient's outpatient oncologist and 
the patient has failed sorafenib, her only future option would 
be chemo. However, per her outpatient PCP notes, the patient is 
not interested in future chemo.  
-outpatient ONC follow up.  
.  
# Hypoparathyroidism with hypocalcemia:  Patient continued on 
home calcitriol and calcium.  Calcium 7.7 on DOA.
.
#Paroxysmal Atrial Fibrillation: Patient not anticoagulated as 
outpatient.  She was continued on 200 amiodarone daily and 
metoprolol.  
.  
# Hypothyroidism:  Patient continued on levothyroxine. 
.  
# Anemia: Patient's HCT decreased by 6 overnight.  CXR was 
repeated and did not show evidence of hemothrorax.  Repeat HCT 
increased so likely lab error and dilutional effect of IVF.  
Also, patient had some mild bleeding with thoracentesis.
 
Medications on Admission:
Amiodarone 200 mg alternating with 100 mg daily,  
Calcitriol 0.25 mcg daily,  
Levothyroxine 0.125 mg tablets  
Metoprolol 25 mg b.i.d.  
Prochlorperazine 10 mg every four hours as needed for nausea,  
Calcium 3 g daily,  
Loperamide as needed  

 
Discharge Medications:
1. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
3. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea/vomiting.  
4. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
5. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Calcium Carbonate 500 mg Tablet, Chewable Sig: Two (2) 
Tablet, Chewable PO TID (3 times a day).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Malignany Left Pleural Effusion
Paroxysmal atrial fibrillation  
tachycardia-mediated cardiomyopathy (now resolved)  
Metastatic papillary thyroid cancer 
Hypoparathyroidism with hypocalcemia  

 
Discharge Condition:
Stable on room air, not short of breath, decreased/no breath 
sounds on left, 

 
Discharge Instructions:
You came to the hospital with shortness of breath.  We found 
that your left lung was collapsed from fluid builing up.  Our 
interventional pulmonologists drained the fluid from your lung 
and you remained stable.  We would like you to follow up with 
your pulmonologists very closely for management.
.
We made NO changes to your medications.
.
Please follow up with your doctors as below.  The pulmonary 
doctors ___ on ___ to schedule your follow up 
appointment.  If you do not hear from them, please call the 
pulmonary clinic on ___.
.
If you have worsening shortness of breath, fever, chills, chest 
pain, blood in your sputum, back pain, nausea, vomiting or any 
other symptoms that are concerning to you please call your 
doctor or come to the emergency room.
 
Followup Instructions:
___